### PR TITLE
feat(loops/homotheties): add lemma `homothety_image_subset_of_open`

### PR DESCRIPTION
**Pull request by ocfnash**
Intended for use in proof of Blueprint lemma `int_cvx`

### CODE REVIEW

File: src/loops/homotheties.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+-- https://github.com/leanprover-community/mathlib/pull/9360
+@[simp] lemma affine_map.homothety_apply_same
+  {k V P : Type*} [comm_ring k] [add_comm_group V] [module k V] [add_torsor V P]
+  (c : P) (r : k) : homothety c r c = c :=
+line_map_same_apply c r
+
+variables {E : Type*} [normed_group E] [normed_space ℝ E]
+
+lemma exists_homothety_mem_of_mem_interior (x : E) {s : set E} {y : E} (hy : y ∈ interior s) :
+  ∃ ε > (0 : ℝ), ∀ (δ : ℝ), ∥δ∥ < ε → homothety x (1 + δ) y ∈ s :=
```
Comment (PatrickMassot) [inline src/loops/homotheties.lean:16]: This `∥δ∥` feels a bit weird.  Would you mind replacing it by `abs δ`. You could introduce a local notation for `abs` (as is done in the tutorial project). Replacing the `ε.norm_eq_abs` in the last `simp` by `real.norm_eq_abs` is enough to fix the proof.

File: src/loops/homotheties.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+  simp [homothety_apply, dist_eq_norm, norm_smul, ε.norm_eq_abs, (lt_div_iff hxy).mp hδ,
+    abs_of_pos hε],
+end
+
+lemma homothety_image_subset_of_open
+  (x : E) {s : set E} (hs : is_open s) {t : finset E} (h : ↑t ⊆ s) :
+  ∃ ε > (0 : ℝ), homothety x (1 + ε) '' t ⊆ s :=
+begin
+  rcases t.eq_empty_or_nonempty with rfl | hne, { use 1, simp, },
+  have h' : ∀ (y : t), ↑y ∈ interior s, { rw interior_eq_iff_open.mpr hs, exact λ y, h y.property },
```
Comment (PatrickMassot) [inline src/loops/homotheties.lean:35]:
```suggestion
  have h' : ∀ (y : t), (y : E) ∈ interior s, { rw interior_eq_iff_open.mpr hs, exact λ y, h y.property },
```
Type ascriptions are always clearer than the coercion arrow.

Comment (PatrickMassot) [reply src/loops/homotheties.lean:35]: Could you also put the proof on the next two lines like we would do in mathlib?

File: src/loops/homotheties.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+  let f : t → ℝ := λ y, classical.some (exists_homothety_mem_of_mem_interior x (h' y)),
```
Comment (PatrickMassot) [inline src/loops/homotheties.lean:36]: I recommend using
```lean
choose f f_pos hf using λ y, exists_homothety_mem_of_mem_interior x (h' y),
```
(and then get rid of all the `some_spec`).

File: src/loops/homotheties.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+  let ft := finset.image f finset.univ,
+  have ftne : ft.nonempty, { simp [hne] },
+  let ε := ft.min' ftne,
+  use ε / 2,
+  let f_spec := λ y, classical.some_spec (exists_homothety_mem_of_mem_interior x (h' y)),
+  obtain ⟨y, -, hy⟩ := finset.mem_image.mp (ft.min'_mem ftne),
+  have hy' : 0 < f y, { exact (exists_prop.mp (f_spec y)).1, },
+  change f y = ε at hy,
```
Comment (PatrickMassot) [inline src/loops/homotheties.lean:44]: You should never need a change right after a obtain. You can replace the obtain line by:
```lean
obtain ⟨y, -, hy : f y = ε⟩ := finset.mem_image.mp (ft.min'_mem ftne),
```

File: src/loops/homotheties.lean [hunk 5]
```diff
@@ -0,0 +1,58 @@
...
+  rcases t.eq_empty_or_nonempty with rfl | hne, { use 1, simp, },
+  have h' : ∀ (y : t), ↑y ∈ interior s, { rw interior_eq_iff_open.mpr hs, exact λ y, h y.property },
+  let f : t → ℝ := λ y, classical.some (exists_homothety_mem_of_mem_interior x (h' y)),
+  let ft := finset.image f finset.univ,
+  have ftne : ft.nonempty, { simp [hne] },
+  let ε := ft.min' ftne,
+  use ε / 2,
+  let f_spec := λ y, classical.some_spec (exists_homothety_mem_of_mem_interior x (h' y)),
+  obtain ⟨y, -, hy⟩ := finset.mem_image.mp (ft.min'_mem ftne),
+  have hy' : 0 < f y, { exact (exists_prop.mp (f_spec y)).1, },
```
Comment (PatrickMassot) [inline src/loops/homotheties.lean:43]: This line becomes useless if you use `choose` as suggested above.

File: src/loops/homotheties.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+  rw set.mem_preimage,
+  apply (exists_prop.mp (f_spec ⟨z, hz⟩)).2,
+  change _ < f ⟨z, hz⟩,
+  suffices : f y ≤ f ⟨z, hz⟩,
+  { rw [normed_field.norm_div, real.norm_two, real.norm_eq_abs, abs_of_pos hy'],
+    exact lt_of_lt_of_le (half_lt_self hy') this, },
+  rw hy,
+  apply ft.min'_le,
+  simp,
+end
```
Comment (PatrickMassot) [inline src/loops/homotheties.lean:58]: I got carried away and rewrote the proof to
```lean
  rcases t.eq_empty_or_nonempty with rfl | hne, { use 1, simp, },
  have h' : ∀ y : t, (y : E) ∈ interior s,
  { rw interior_eq_iff_open.mpr hs, 
    exact λ y, h y.property },
  choose f f_pos hf using λ y, exists_homothety_mem_of_mem_interior x (h' y),
  let ft : finset ℝ := finset.image f finset.univ,
  have ftne : ft.nonempty, by simp [hne],
  let ε := ft.min' ftne,
  use ε / 2,
  obtain ⟨y, -, hy : f y = ε⟩ := finset.mem_image.mp (ft.min'_mem ftne),
  have hε : 0 < ε := hy ▸ f_pos y,
  refine ⟨half_pos hε, _⟩,
  rw set.image_subset_iff,
  intros z hz,
  apply hf ⟨z, hz⟩,  
  calc abs (ε / 2) = ε / 2 : abs_of_pos (half_pos hε)
   ... < ε : half_lt_self hε
   ... ≤ f ⟨z, hz⟩ :  ft.min'_le (f ⟨z, hz⟩) (by simp)
```
assuming the previous lemma uses `abs` instead of a norm.

File: src/loops/homotheties.lean (hunk 1 above)
Comment (ocfnash) [reply src/loops/homotheties.lean:16]: Agreed; now done.

File: src/loops/homotheties.lean (hunk 2 above)
Comment (ocfnash) [reply src/loops/homotheties.lean:35]: Agreed; both now done.

File: src/loops/homotheties.lean (hunk 6 above)
Comment (ocfnash) [reply src/loops/homotheties.lean:58]: Super. I've also digested the individual remarks you provided above.

File: src/loops/homotheties.lean (hunk 3 above)
Comment (ocfnash) [reply src/loops/homotheties.lean]: _How_ have I never learned about `choose` before. Thanks for this!
